US07951824B2
Step 2: 6-Methyl-4-nitro-pyridine-2-carboxlic acid
A solution of 10.9 g (66.8 mmol) of 6-Methyl-4-nitro-pyridine-2-carbonitrile in 60 ml of 90% sulfuric acid was heated at 120° C. for 2 h and then allowed to cool to room temperature. A solution of 12.2 g (69.0 mmol, 2.65 equiv.) of sodium nitrite in 22 ml of water was added dropwise over a period of 30 min maintaining the temperature between 12-15° C. The reaction was stirred for 30 min at room temperature and then for 1 h at 80° C. The solution was allowed to cool to room temperature and poured onto 150 g of crushed ice. After stirring the yellow solution for 10 min, 200 ml of water were added whereby precipitation occurs. The product is filtered, washed with a small amount of water and dried in vaccuo to yield the title compound as a light yellow crystalline solid (11.2 g, 92%), MS (ISP): m/e=183.1 (M+H)+.

reactant | 6-Methyl-4-nitro-pyridine-2-carbonitrile | 66.8 mmol, 10.9 g | CC1=CC(=CC(=N1)C#N)[N+](=O)[O-] | C7H5N3O2
reactant | sodium nitrite | 69.0 mmol, 12.2 g, 2.65 equiv. | N(=O)[O-].[Na+]
reactant | water | 22 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Methyl-4-nitro-pyridine-2-carboxlic acid | 11.2 g, 92% | CC1=CC(=CC(=N1)C(=O)O)[N+](=O)[O-] | C7H6N2O4
